US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1-(pyridin-3-yl)-1H-imidazole-4-carboxamide
3-Pyridineboronic acid 1,3-propanediol ester (43.7 mg, 0.268 mmol), (S)—N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-imidazole-4-carboxamide (50 mg, 0.134 mmol), anhydrous copper(II) acetate (36.5 mg, 0.201 mmol), pyridine (0.022 ml, 0.268 mmol) and DCM (1 ml) were added into a flask and stirred at RT for 47 h. The reaction mixture was extracted with ethyl acetate, dried, filtered and evaporated. The product was purified by column chromatography. Yield 16.57%. 1H-NMR (400 MHz; CDCl3): δ 1.24 (d, 3H), 4.28 (dd, 1H), 4.47 (dd, 1H), 4.57-4.67 (m, 1H), 6.64 (d, 1H), 7.48-7.55 (m, 2H), 7.74-7.78 (m, 1H), 7.81 (d, 1H), 7.88 (d, 1H), 7.91-7.94 (m, 2H), 8.27 (d, 1H), 8.72 (d, 1H), 8.79 (d, 1H).

reactant | 3-Pyridineboronic acid 1,3-propanediol ester | 0.268 mmol, 43.7 mg | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
reactant | (S)—N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-imidazole-4-carboxamide | 0.134 mmol, 50 mg | ClC=1C=C(C=C(C1C#N)F)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=CNC1 | C17H14ClFN6O
reactant | pyridine | 0.268 mmol, 0.022 ml | N1=CC=CC=C1 | C5H5N
catalyst | copper(II) acetate | 0.201 mmol, 36.5 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | (S)—N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1-(pyridin-3-yl)-1H-imidazole-4-carboxamide | Yield 16.57% | ClC=1C=C(C=C(C1C#N)F)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=CN(C1)C=1C=NC=CC1 | C22H17ClFN7O
